US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylthiophenyl)piperidino)propyl]-2-ethyl-2,3-dihydroisoindol-1-one hydrochloride.
3-(3,4-Dichlorophenyl)-3-(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.724 g) was coupled to 4-(2-methylthiophenyl)piperidine (0.414 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the hydrochloride salt to afford the title compound (0.63 g); mp 110°-140° C. (d); MS: m/z=553(M+1); NMR (CDCl3): 1.19 (m, 3), 2.0 (m,2), 2.45 (s,3), 2.68 (m,7), 3.16 (m,3), 3.56 (m, 4), 4.18 (m,1), 4.86 (d,1, J=3.7), 6.56-7.79 (m,11). Analysis for C31H34Cl2N2OS·HCl: Calculated: C, 63.1; H, 5.97, N, 4.75; Found: C, 62.94; H, 5.94; N, 4.82.

reactant | 3-(3,4-Dichlorophenyl)-3-(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.724 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)CC | C19H17Cl2NO2
reactant | 4-(2-methylthiophenyl)piperidine | 0.414 g | CSC1=C(C=CC=C1)C1CCNCC1 | C12H17NS
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylthiophenyl)piperidino)propyl]-2-ethyl-2,3-dihydroisoindol-1-one hydrochloride | 0.63 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)C1=C(C=CC=C1)SC)C1N(C(C2=CC=CC=C12)=O)CC | InChI=1S/C31H34Cl2N2OS.ClH/c1-3-35-30(25-9-4-5-10-26(25)31(35)36)24(22-12-13-27(32)28(33)20-22)16-19-34-17-14-21(15-18-34)23-8-6-7-11-29(23)37-2;/h4-13,20-21,24,30H,3,14-19H2,1-2H3;1H
